US06472562B1
(S)-2-Amino-N-(1-carbamoyl-4-guanidino-butyl)-5-[2-(2,4-dichlorophenyl)ethoxy]benzamide
Rink resin (306 mg; loading 0.43 mmol/g) functionalized with Arg(Boc)2 was coupled with 146 mg of 5-hydroxy-2-nitrobenzoic acid in the presence of DIC (136 mg) and HOBt (140 mg) in DMF (2 ml) for 3 h at room temperature. The resin was then washed and treated with a 15% solution of benzyltrimethylammonium hydroxide in DMF for 60 min. The resin was washed with DMF, 10% acetic acid in DMF, DMF and DCM and dried in vacuo for 4 h. The dried resin was washed with anhydrous THF and mixed with 534 mg (2 mmol) of triphenylphosphane, 422 mg (2 mmol) of 2-(2,4-dichlorophenyl)ethanol and 400 μl (2 mmol) of DIAD in dry THF. The mixture was kept overnight at room temperature. The resin was washed and treated with 415 mg of tin dichloride monohydrate in 2 ml of DMF and 0.5 ml of trifluoroethanol. The reduction was continued overnight at room temperature. The resin was washed and dried, and the final product was cleaved off and processed as described in Example 1.

reactant | Arg(Boc)2 | N[C@@H](CCCNC(N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=N)C(=O)O | C16H30N4O6
reactant | 5-hydroxy-2-nitrobenzoic acid | 146 mg | OC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H5NO5
reactant | DIC | 136 mg | CC(N=C=NC(C)C)C | C7H14N2
reactant | HOBt | 140 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triphenylphosphane | 2 mmol, 534 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(2,4-dichlorophenyl)ethanol | 2 mmol, 422 mg | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
reactant | DIAD | 2 mmol, 400 μl | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | (S)-2-Amino-N-(1-carbamoyl-4-guanidino-butyl)-5-[2-(2,4-dichlorophenyl)ethoxy]benzamide | NC1=C(C(=O)N[C@@H](CCCNC(=N)N)C(N)=O)C=C(C=C1)OCCC1=C(C=C(C=C1)Cl)Cl | C21H26Cl2N6O3
